US07547680B2
2-Amino-1-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-1H-benzimidazole
2-Azido-1-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-1H-benzimidazole (100 mg) was dissolved in methanol (2 mL). To the solution was added a catalytic amount of 10% palladium-carbon powder, and the mixture was stirred at room temperature under a hydrogen atmosphere for 1 hour. The insoluble material was removed by filtration, and the solvent of filtrate was removed under reduced pressure to give the title compound (97 mg).

reactant | 2-Azido-1-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-1H-benzimidazole | 100 mg | N(=[N+]=[N-])C1=NC2=C(N1[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)C=CC=C2 | C18H19N5O7
solvent | methanol | 2 mL | CO | CH4O
catalyst | palladium-carbon | [C].[Pd]
product | 2-Amino-1-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)-1H-benzimidazole | 97 mg | NC1=NC2=C(N1[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)C=CC=C2 | C18H21N3O7
